US05688946
A mixture of 12 g (54 mmol) of L-aspartic acid 4-benzyl ester, 10 ml of concentrated sulphuric acid and 100 ml of liquid isobutylene in 100 ml of dry dioxan is stirred at room temperature overnight in a pressure flask. Thereafter, the solution is added dropwise to 500 ml of ice-cold 1N sodium hydroxide solution. The aqueous phase is extracted three times with ether. The combined organic phases are dried over sodium sulphate and evaporated. The viscous oil obtained (13.85 g) is dissolved in 250 ml of dry dimethylformamide and stirred at room temperature for 4 hours with 9.55 g (54.5 mmol) of Boc-glycine, 20.7 g (54.5 mmol) of HBTU and 6 ml (54.5 mmol) of N-methylmorpholine. Subsequently, the reaction mixture is evaporated in a high vacuum and the residue obtained is taken up in ether. The organic phase is washed with 5% sodium carbonate solution and water, thereafter dried over sodium sulphate and evaporated under reduced pressure. The oily residue is chromatographed on silica gel using a 1:1 mixture of hexane and ether as the eluent. There is obtained 4-benzyl 1-tert-butyl N-[(1-tert-butoxyformamido)acetyl]-L-aspartate as a viscous oil; MS: 437 (M+H)+.

reactant | L-aspartic acid 4-benzyl ester | 54 mmol, 12 g | C(C1=CC=CC=C1)OC(C[C@H](N)C(=O)O)=O | C11H13NO4
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
reactant | Boc-glycine | 54.5 mmol, 9.55 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | HBTU | 54.5 mmol, 20.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 54.5 mmol, 6 ml | CN1CCOCC1 | C5H11NO
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-benzyl 1-tert-butyl N-[(1-tert-butoxyformamido)acetyl]-L-aspartate | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H32N2O7
